US07501410B2
N-[3-(4-tert-Butyl-phenyl)-1-(5-methyl-2H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazin-6-yl]-formamide
6-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one and 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one: 4.56 g of a 1:1 mixture of 4-Bromo-2-(4-tert-butyl-phenyl)-6-nitro-2H-phthalazin-1-one and 4-Bromo-2-(4-tert-butyl-phenyl)-7-nitro-2H-phthalazin-1-one in 45 ml dry dioxane were reacted with 2.605 g 1-(tert.butyl)-3-methyl-1H-pyrazole-5-ylamine, 5.526 g cesium carbonate, 311 mg tris-(dibenzylideneacetone)-dipalladium and 393 mg 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene under nitrogen at 80 C. After 2 hrs HPLC indicated complete conversion and the mixture was cooled to RT, diluted with 150 ml DCM and washed twice with diluted HCl. The organic phase was dried and evaporated and the residue chromatographed on silica eluting first heptane and subsequently with heptane/EtOAc 8:2. The first eluting product was the 6-nitro isomer (1.82 g), the second eluting product was the 7-nitro isomer (2.05 g).

reactant | 6-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | [N+](=O)([O-])C=1C=C2C(=NN(C(C2=CC1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30N6O3
reactant | 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | [N+](=O)([O-])C1=CC=C2C(=NN(C(C2=C1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30N6O3
reactant | 4-Bromo-2-(4-tert-butyl-phenyl)-6-nitro-2H-phthalazin-1-one | BrC1=NN(C(C2=CC=C(C=C12)[N+](=O)[O-])=O)C1=CC=C(C=C1)C(C)(C)C | C18H16BrN3O3
reactant | 4-Bromo-2-(4-tert-butyl-phenyl)-7-nitro-2H-phthalazin-1-one | BrC1=NN(C(C2=CC(=CC=C12)[N+](=O)[O-])=O)C1=CC=C(C=C1)C(C)(C)C | C18H16BrN3O3
reactant | 1-(tert.butyl)-3-methyl-1H-pyrazole-5-ylamine | 2.605 g | C(C)(C)(C)N1N=C(C=C1N)C | C8H15N3
reactant | cesium carbonate | 5.526 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | tris-(dibenzylideneacetone)-dipalladium | 311 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[3-(4-tert-Butyl-phenyl)-1-(5-methyl-2H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazin-6-yl]-formamide | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C2=CC=C(C=C2C1=O)NC=O)NC=1NN=C(C1)C | C23H24N6O2
